US08937071B2
To a solution of tert-butyl 2-cyano-2-(5-nitro-3-(trifluoromethyl)pyridin-2-yl)acetate (1.06 g, 3.20 mmol) in MeOH (80 mL) was added HCl (20 mL, 3.20 mmol). The mixture was at 70° C. for 10 h. Then the solution was concentrated and distributed between EA and saturated NaHCO3 solution. The combined organic extract was washed with brine, dried over MgSO4, filtered and concentrated. The resulting 2-(5-nitro-3-(trifluoromethyl)pyridin-2-yl)acetonitrile (402 mg, 1.739 mmol, 54.4% yield) was used in the next step without further purification. TLC (PE/EA=5:1, Rf=0.6): 1H NMR (400 MHz, CDCl3) δ 9.56 (d, J=2.21 Hz, 1H), 8.63-8.87 (m, 1H), 4.20 (br. s., 2H); ES-LCMS m/z 232.0 (M+H).

reactant | tert-butyl 2-cyano-2-(5-nitro-3-(trifluoromethyl)pyridin-2-yl)acetate | 3.20 mmol, 1.06 g | C(#N)C(C(=O)OC(C)(C)C)C1=NC=C(C=C1C(F)(F)F)[N+](=O)[O-] | C13H12F3N3O4
reactant | HCl | 3.20 mmol, 20 mL | Cl | ClH
solvent | MeOH | 80 mL | CO | CH4O
product | 2-(5-nitro-3-(trifluoromethyl)pyridin-2-yl)acetonitrile | 1.739 mmol, 402 mg, 54.4% yield | [N+](=O)([O-])C=1C=C(C(=NC1)CC#N)C(F)(F)F | C8H4F3N3O2
